US07858796B2
(9) 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide (50 mg, 0.12 mmol) and 2M dimethyl amine in THF (0.3 mL, 0.60 mmol) were allowed to react in the presence of K2CO3 (84.6 mg, 0.24 mmol) and NaI (Cat. 5 mg). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (17.1 mg, 30%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(3-thienyl)-1H-indole-7-carboxamide | 0.12 mmol, 50 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N | C21H24ClN3O3S2
reactant | dimethyl amine | 2M | CNC | C2H7N
reactant | THF | 0.60 mmol, 0.3 mL | C1CCOC1 | C4H8O
reactant | K2CO3 | 0.24 mmol, 84.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 5 mg | [Na+].[I-]
product | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(3-thienyl)-1H-indole-7-carboxamide | 17.1 mg, 30% | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC=C1)C(=O)N)C | C23H30N4O3S2
